Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
post-ERCP monitoring
 
Major Surgical or Invasive Procedure:
ERCP with stent placement

 
History of Present Illness:
___ y/o M w/ afib on Coumadin p/w a 2.3 cm pancreatic head mass.
EUS/FNA w/ DP ___ for adenoCA. Pt presented at
multi-disciplinary rounds and appears borderline resectable. Now
mildly jaundiced with rising LFT's. His pancreatic adenoCA was
found as part of a w/u for weight loss which persisted after
recovering from lyme disease and anasplasmosis. On imaging his
CBD was found to be enlarged and imaging revealed biliary ductal
dilation. His bili is elevated and thus he presents for elective
stent placement prior to initiation of chemotherapy. 
S/p ERCP during which stricture seen and stent placed. 
Currently he reports intermittent light colored soft light 
stools
for one month. He reports minimal R sided neck pain post
procedure. He does not report f/c/n/v/d/ abdominal pain. He has
increased belching post meals. 5 lb weight loss x 3 days which 
he
attributes to not being able to eat.  He is s/p L hip steroid
injection and currently reports ___ pain in his hip.  Pain
worsens with walking but improves with biking. Mild ___ throat
pain. He does not have back pain currently. 
 
________________________________________________________________
REVIEW OF SYSTEMS:  
+ per HPI above
ALLERGY:
[-]Medication allergies -> NKDA 
[X]all other systems negative except as noted above 
 
Past Medical History:
1.  Coronary artery disease status post PCI ___.
2.  Atrial fibrillation.
3.  Hypertension.
4.  Hyperlipidemia.
5.  Type 2 diabetes mellitus.
6.  Chronic kidney disease, stage III.
7.  History of Lyme disease/anaplasmosis, ___.
8.  Osteoarthritis, status post left hip steroid injection.
9.  Cataracts.
 
Social History:
___
Family History:
Confirmed with pt on admission. 
The patient's mother lived to her ___.  He does
not know his father's history.  He has two sisters and four
children are without healthy concerns.  No family history of
malignancy.

 
Physical Exam:
1. VS: T 97.9 P 80 BP 138/77 RR 18 O2Sat on  _100% RA___  
GENERAL:  Well appearing male in NAD. 
Nourishment: good  
Grooming:  good
Mentation: good, alert, speaks in full sentences  
2. Eyes: [X] WNL 
PERRL, EOMI without nystagmus, Conjunctiva: clear
3. ENT [] WNL
[X] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ 
cm
4. Cardiovascular [X] WNL
[+] Irregularly irregular  [] Tachy  [X] S1 [X] S2 [-] Systolic
Murmur     /6, Location:

[] Irregular  []Brady []S3  [] S4  [] Diastolic Murmur    /6,
Location:
[X] Edema RLE  None 
[X] Edema LLE None 
2+ DPP b/l
[] Vascular access  [X] Peripheral [] Central site:
5. Respiratory [ ]
[X] CTA bilaterally  [ ] Rales  [ ] Diminshed
[X] Comfortable     [ ] Rhonchi   [ ] Dullness
6. Gastrointestinal [ ] WNL

[X] Soft [-] Rebound [] No hepatomegaly  [X] Non-tender [] 
Tender
[] No splenomegaly
[X] Non distended  [] distended  [X] bowel sounds Yes   [] 
guiac:
positive/negative
7. Musculoskeletal-Extremities [X] WNL
[ ] Tone WNL  [X]Upper extremity strength ___ and symmetrical  [
]Other:
[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[
] Other:
[X] Normal gait  []No cyanosis  [ ] No clubbing  [] No joint
swelling
8. Neurological [x] WNL
[X] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ] 
CN
II-XII intact  [X ] Normal attention  [ ] FNF/HTS WNL []
Sensation WNL  [- ] Delirious/confused  [ ] Asterixis
Present/Absent  [ ] Position sense WNL
[ ] Demented  [ ] No pronator drift  [X] Fluent speech
9. Integument  [] WNL
[X] Warm  [X] Dry  [] Cyanotic [+] Rash: Xerosis of b/l
extremities 
10. Psychiatric [X] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[X] Pleasant [] Depressed [] Agitated [] Psychotic 
. 
 
Pertinent Results:
___ 02:30PM   WBC-7.4 RBC-3.88* HGB-12.4* HCT-37.0* MCV-96 
MCH-32.1* MCHC-33.6 RDW-14.6
___ 02:30PM   PLT COUNT-277
___ 02:30PM   UREA N-18 CREAT-1.1 SODIUM-140 POTASSIUM-4.5 
CHLORIDE-100 TOTAL CO2-28 ANION GAP-17
___ 02:30PM   ALT(SGPT)-271* AST(SGOT)-153* ALK PHOS-891* 
AMYLASE-47 TOT BILI-3.3* DIR BILI-1.4* INDIR BIL-1.9
___ 02:30PM   LIPASE-25
___ 02:30PM   ___ PTT-33.3 ___

EUS:
Impression:
A 2.1 cm X 2.5 cm ill-defined mass was noted in the head of the 
pancreas. The mass was hypoechoic and heterogenous in 
echotexture. The borders of the mass were irregular and poorly 
defined.
No avascular path was identified to perform FNA.
Non-obstructing duodenal stricture between the duodenal bulb and 
the second portion. This was traversed with the scope with 
minimal resistance.
Recommendations:
Will proceed with ERCP

ERCP:
Impression:
Non-obstructing distal duodenal bulb was traversed with minimal 
resistance.
Normal appearing major papilla.
Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique.
Contrast medium was injected resulting in complete 
opacification. 
A single irregular stricture that was 2 cm long was seen at the 
lower third of the common bile duct.
Post-obstructive biliary dilation was noted proximal to the 
stricture.
A single irregular stricture that was 10 mm long was seen at the 
main pancreatic duct.
Biliary sphincterotomy was performed in the 12 o'clock position 
using a sphincterotome over an existing guidewire.
Cytology samples were obtained for histology using a brush in 
the lower third of the common bile duct stricture . 
A 6 cm by 10 mm WallFlex-Fully covered biliary stent was placed 
successfully in the main duct.
Brisk drainage of bile and contrast from biliary tree was noted 
endoscopically and fluoroscopically. 
Recommendations:
Monitor LFTs. 
Admit to hospital for observation. 
NPO overnight with IVF
___ advance diet to clears if no abdominal pain in the morning. 
Follow-up with Dr. ___ Dr. ___ as scheduled. 

 
Brief Hospital Course:
___ year old man with h/o CAD, DMII, recently diagnosed locally 
advanced pancreatic cancer which was
deemed to be borderling resectable, with asx biliary obstruction 
noted on imaging with elevated bilirubin who presents for 
ERCP/stent placement prior to initiation of neo-adjuvant 
chemotherapy.
.
PANCREATIC ADENOCARCINOMA
BILIARY OBSTRUCTION: clinically stable
- s/p ERCP with stent placement
- f/u HCTstable & LFTs improving
- NPO overnight, did well, diet advanced the following day
- f/u with Drs ___, med oncology and rad onc 
.
ATRIAL FIBRILLATION: CHADS2 = 3 (HTN/AGE/DM): clinically stable
- Holding coumadin for now, restart ___ per ERCP team
- continue atenolol  
.
CAD s/p PCI: clinically stable
- ASA on hold, can resume on discharge
- currently not on a statin but will not start given elevated 
LFTS
.
DMII on metformin/glipizide/insulin: stable
- BS = 102 post procedure thus held lantus ___
- SSI and diabetic diet when diet advanced
- holding glipizide and metformin, resume on discharge
.
HTN: stable
- held ___ given BP well controlled, pt NPO initially
- re-started upon d/c
.
ANEMIA, NORMOCYTIC: 
- HCT slowing trending down, no evidence acute blood loss
- likely ACD vs slow bleeding from malignancy, though not seen 
on endoscopy
- iron/b12 studies deferred to outpatient setting

DVT PROPHYLAXIS: [ ]Pharmacological  [X] Mechanical  
[X]Ambulation

Code Status: FULL CODE d/w patient
HCP is ___ his wife. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 100 mg PO DAILY 
2. Atenolol 25 mg PO DAILY 
3. MetFORMIN (Glucophage) 1000 mg PO BID 
4. Warfarin 10 mg PO DAILY16 
5. Glargine 24 Units Dinner
6. Aspirin 81 mg PO DAILY 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. GlipiZIDE 5 mg PO BID 

 
Discharge Medications:
1. Atenolol 25 mg PO DAILY 
2. Glargine 24 Units Dinner
3. Aspirin 81 mg PO DAILY 
4. GlipiZIDE 5 mg PO BID 
5. Hydrochlorothiazide 25 mg PO DAILY 
6. Losartan Potassium 100 mg PO DAILY 
7. MetFORMIN (Glucophage) 1000 mg PO BID 
8. WARFARIN TO BE RESUMED AT PREVIOUS DOSE ON ___
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pancreatic adenocarcinoma s/p ERCP with stent placement

SECONDARY:
atrial fibrillation
hypertension
diabetes mellitus type II

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
please see below
 
Followup Instructions:
___